US06897231B2
B. 3-((1E)-2-Phenylvinyl)-1H-indazole-5-carbonitrile
The title compound was prepared by hydrolyzing 3-((1E)-2-phenylvinyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.268 g, 0.815 mmol) in a mixture of 6 mL of tetrahydrofuran and 6 mL of aqueous hydrogen chloride (6.0 N) at room temperature for 12 hours, and reflux temperature for 6 hours. The compound was used without further purification. ES-MS (m/z) 246 [M+1]+.

reactant | 3-((1E)-2-phenylvinyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.815 mmol, 0.268 g | C1(=CC=CC=C1)/C=C/C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C21H19N3O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | hydrogen chloride | 6.0 N, 6 mL | Cl | ClH
product | 3-((1E)-2-Phenylvinyl)-1H-indazole-5-carbonitrile | C1(=CC=CC=C1)/C=C/C1=NNC2=CC=C(C=C12)C#N | C16H11N3
